US08124606B2
Compound 97B: 7-Hydroxymethyl-10-oxo-1,3,4,9,10,10a-hexahydro-2,4a,5,9-tetraaza-phenanthrene-2-carboxylic acid tert-butyl ester:
10-Oxo-1,3,4,9,10,10a-hexahydro-2,4a,5,9-tetraaza-phenanthrene-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester (545 mg, 1.504 mmol) was taken up in tetrahydrofuran (18 mL) in an inert environment. To the stirred suspension at room temperature was added NaH (90 mg, 2.26 mmol, 60% dispersion in mineral oil) and stirred 30 minutes. The reaction was then cooled to −45° C. and lithium aluminum hydride (2.26 ml, 2M in THF) was added. The reaction was stirred at a temperature between −20 and −10° C. for 1 hour. The reaction was then cooled back to −60° C. and MeOH (5 ml) followed by water (1 ml) was added. The reaction was allowed to stir at ambient temperature for 2 hours and then poured into ethyl acetate (400 ml) and water (100 ml). The biphasic mixture was stirred vigorously and then filtered through a medium frit. The filtrate was collected. The layers were separated and the aqueous phase was extracted with ethyl acetate (1×100 ml). The organic layers were combined, washed with brine (100 ml), and concentrated to 429.4 mg (96%) of the title compound as an off-white solid. [M+H] calc'd for C16H22N4O4, 335. found, 335

reactant | 10-Oxo-1,3,4,9,10,10a-hexahydro-2,4a,5,9-tetraaza-phenanthrene-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester | 1.504 mmol, 545 mg | COC(=O)C1=CN=C2N3CCN(CC3C(NC2=C1)=O)C(=O)OC(C)(C)C | C17H22N4O5
reactant | NaH | 2.26 mmol, 90 mg | [H-].[Na+]
reactant | lithium aluminum hydride | 2M, 2.26 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | MeOH | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1 ml | O | H2O
product | 7-Hydroxymethyl-10-oxo-1,3,4,9,10,10a-hexahydro-2,4a,5,9-tetraaza-phenanthrene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(NC3=CC(=CN=C3N2CC1)CO)=O | C16H22N4O4
